US05032598
A mixture of 0.251 g (0.001 mol) of 2-(4-piperidyl)-1-indanone hydrochloride, 0.21 g (0.002 mol) of 2-vinylpyridine, 0.272 g (0.002 mol) sodium acetate trihydrate, 2 mL of water, and 2 mL of methanol was stirred and refluxed for 20 hours. The solvent was evaporated in vacuo and the residue was dissolved in ethyl acetate and dried over magnesium sulfate. The product was isolated in pure form by chromatography on silica gel using 5% methanol in chloroform. A hydrochloride salt was prepared and was recrystallized from ethanol to give 2-[1-(2-pyridylethyl)-4-piperidyl]-1-indanone dihydrochloride, mp 195°-196° C.

reactant | 2-(4-piperidyl)-1-indanone hydrochloride | 0.001 mol, 0.251 g | Cl.N1CCC(CC1)C1C(C2=CC=CC=C2C1)=O
reactant | 2-vinylpyridine | 0.002 mol, 0.21 g | C(=C)C1=NC=CC=C1 | C7H7N
reactant | sodium acetate trihydrate | 0.002 mol, 0.272 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | methanol | 2 mL | CO | CH4O
product | 2-[1-(2-pyridylethyl)-4-piperidyl]-1-indanone dihydrochloride | Cl.Cl.N1=C(C=CC=C1)CCN1CCC(CC1)C1C(C2=CC=CC=C2C1)=O | InChI=1S/C21H24N2O.2ClH/c24-21-19-7-2-1-5-17(19)15-20(21)16-8-12-23(13-9-16)14-10-18-6-3-4-11-22-18;;/h1-7,11,16,20H,8-10,12-15H2;2*1H
